US04411840
A. PRODUCTION OF S-(CARBOXYMETHYL)-(RS)-CYSTEINE
As starting material there served (RS)-cysteine hydrochloride which was produced by the process of German OS No. 2645748. 140 grams (1 mole) of this material together with 160 grams (4 moles) of sodium hydroxide were dissolved in 1000 ml of water. To this solution there was first added 3 grams of sodium hydrogen sulfide and then in the course of 45 minutes 95 grams (1 mole) of monochloroacetic acid. The temperature of the mixture in the meanwhile was held at 20° C. and after that held for 3 hours at 20° to 30° C. The reaction mixture was subsequently adjusted to a pH of 3.0 by addition of concentrated, aqueous hydrochloric acid. Hereby the S-(carboxymethyl)-(RS)-cysteine separated out. It was filtered off at 10° C. and washed with water until it was free from chloride ions. Then it was dried under reduced pressure at 105° C. The yield was 173 grams, corresponding to 97% based on the cysteine hydrochloride employed. The melting point (decomposition point) of the S-(carboxymethyl)-(RS)-cysteine was 188° to 192° C.

reactant | (RS)-cysteine hydrochloride | Cl.NC(CS)C(=O)O
reactant | sodium hydroxide | 4 moles, 160 grams | [OH-].[Na+]
reactant | sodium hydrogen sulfide | 3 grams | S.[Na]
reactant | monochloroacetic acid | 1 mole, 95 grams | ClCC(=O)O | C2H3ClO2
solvent | water | 1000 ml | O | H2O
product | S-(CARBOXYMETHYL)-(RS)-CYSTEINE | C(=O)(O)CSCC(N)C(=O)O | C5H9NO4S
